US06235731B1
3) Synthesis of N-[3-(4-benzyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
In 10 ml of ethanol were suspended 606.9 mg (1.3 mM) of N-[3-(hexahydro-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8-diazaacenaphthylene-4-carboxamide trihydrochloride and 342.1 mg (2.0 mM) of benzyl bromide, followed by addition of 0.91 ml (6.5 mM) of triethylamine, and the mixture was refluxed overnight. This reaction mixture was diluted with 5% aqueous solution of sodium hydrogen carbonate and and extracted with ethyl acetate. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over Na2SO4. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=2/3) to provide the title compound as deep-red liquid (320.0 mg, 55.0%).

reactant | N-[3-(hexahydro-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8-diazaacenaphthylene-4-carboxamide trihydrochloride | 1.3 mM, 606.9 mg | Cl.Cl.Cl.N1(CCNCCC1)CCCNC(=O)C1C=C2C=NC=3N=CC=C(S1)C32
reactant | benzyl bromide | 2.0 mM, 342.1 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | triethylamine | 6.5 mM, 0.91 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[3-(4-benzyl-2,3,5,6-tetrahydro-7H-1,4-diazepin-1-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 320.0 mg, 55.0% | C(C1=CC=CC=C1)N1CCN(CCC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H29N5OS
